US03994954
N-t-Butoxycarbonyl-2-(4-methoxyphenyl)glycine n-butyl ester
A solution of 290 mg. (1 mmol.) of N-t-butyoxycarbonyl-2-acetoxyglycine n-butyl ester, 0.5 ml. of anisole and 3 drops of boron trifluoride etherate in 5 ml. of methylene chloride was stirred at 25° for 4 hours. The solvent was removed and the residue was chromatographed on silica gel and eluted with 1:1 chloroform-hexane to give the title compound.

reactant | N-t-butyoxycarbonyl-2-acetoxyglycine n-butyl ester | 1 mmol | C(CCC)OC(C(NC(=O)OC(C)(C)C)OC(C)=O)=O | C13H23NO6
reactant | anisole | C1(=CC=CC=C1)OC | C7H8O
catalyst | boron trifluoride etherate | 3 drops | B(F)(F)F.CCOCC
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-t-Butoxycarbonyl-2-(4-methoxyphenyl)glycine n-butyl ester | C(CCC)OC(C(NC(=O)OC(C)(C)C)C1=CC=C(C=C1)OC)=O | C18H27NO5
